US07332510B2
Step 1: 1-(4-Fluoro-phenyl)-4-iodo-2-isopropyl-1H-imidazole
The title compound, MS: m/e=331.1 (M+H+), was prepared in accordance with the general method of example 7 from 5-iodo-2-isopropyl-1H-imidazole and 4-fluorobenzene boronic acid.

reactant | 5-iodo-2-isopropyl-1H-imidazole | IC1=CN=C(N1)C(C)C | C6H9IN2
reactant | 4-fluorobenzene boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 1-(4-Fluoro-phenyl)-4-iodo-2-isopropyl-1H-imidazole | FC1=CC=C(C=C1)N1C(=NC(=C1)I)C(C)C | C12H12FIN2
